US07361669B2
Isonicotinohydrazide (10.96 g, 79.9 mmol) was dissolved in ethanol (80 ml) containing potassium hydroxide (5.3 g, 94.4 mmol). Carbon disulfide was then added with stirring, which was continued for 1 hr. Filtration gave crude potassium 3-isonicotinoyldithiocarbazate which was washed with ether and then dried in vacuum. This was then added slowly with stirring to concentrated sulfuric acid (25 ml) maintained at −5° C. Stirring was continued for an additional 5 min and then the reaction mixture was poured into crushed ice. After 10 min, the solid was filtered off to give 5-(pyridine-4′yl)-1,3,4-thiadiazole-2(3H)-thione.

reactant | Isonicotinohydrazide | 79.9 mmol, 10.96 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
reactant | potassium hydroxide | 94.4 mmol, 5.3 g | [OH-].[K+]
reactant | Carbon disulfide | C(=S)=S | CS2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | potassium 3-isonicotinoyldithiocarbazate | C(C1=CC=NC=C1)(=O)NNC(=S)[S-].[K+] | InChI=1S/C7H7N3OS2.K/c11-6(9-10-7(12)13)5-1-3-8-4-2-5;/h1-4H,(H,9,11)(H2,10,12,13);/q;+1/p-1
